US05538956
3-[N,N-bis-(4-chlorobenzyl)amino]propyl chloride was prepared by halogenating 3-[N,N-bis-(4-chlorobenzyl)amino]propanol using thionyl chloride.

reactant | 3-[N,N-bis-(4-chlorobenzyl)amino]propanol | ClC1=CC=C(CN(CC2=CC=C(C=C2)Cl)CCCO)C=C1 | C17H19Cl2NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-[N,N-bis-(4-chlorobenzyl)amino]propyl chloride | ClC1=CC=C(CN(CC2=CC=C(C=C2)Cl)CCCCl)C=C1 | C17H18Cl3N
